US04153719
(a) 1-Bromomethyl-4-(2-chloro-4-methoxyphenoxymethyl)cyclohexane
By replacing the 1,4-bis(bromomethyl)cyclohexane in the foregoing preparation by a molar equivalent amount of 1,4-bis(bromomethyl)benzene, it is contemplated that 4-(2-chloro-4-methoxyphenoxymethyl)benzyl bromide can be prepared.

reactant | 1,4-bis(bromomethyl)cyclohexane | BrCC1CCC(CC1)CBr | C8H14Br2
reactant | 1,4-bis(bromomethyl)benzene | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | 4-(2-chloro-4-methoxyphenoxymethyl)benzyl bromide | ClC1=C(OCC2=CC=C(CBr)C=C2)C=CC(=C1)OC | C15H14BrClO2
product | 1-Bromomethyl-4-(2-chloro-4-methoxyphenoxymethyl)cyclohexane | BrCC1CCC(CC1)COC1=C(C=C(C=C1)OC)Cl | C15H20BrClO2
